US08110585B2
1,2,3-benzothiadiazol-7-ylmethanol
To a solution of methyl 1,2,3-benzothiadiazole-7-carboxylate (10.0 g, 51.5 mmol) in tetrahydrofuran (200 mL) was added a solution (1 M, 154 mL, 154 mmol) of diisobutylaluminum hydride in hexane at −78° C. and the mixture was stirred for 20 min. The mixture was stirred at room temperature for 1 hr, water and 1 M aqueous sodium hydroxide solution (20 mL) were added at 0° C., and the mixture was stirred at 0° C. for 10 min. To the reaction mixture was added 6 M hydrochloric acid (10 mL) and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by recrystallization (ethyl acetate/methanol) to give the title compound (8.25 g, yield 96%).

reactant | methyl 1,2,3-benzothiadiazole-7-carboxylate | 51.5 mmol, 10.0 g | S1N=NC2=C1C(=CC=C2)C(=O)OC | C8H6N2O2S
reactant | diisobutylaluminum hydride | 154 mmol, 1 M, 154 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium hydroxide | 1 M, 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 1,2,3-benzothiadiazol-7-ylmethanol | 8.25 g, yield 96% | S1N=NC2=C1C(=CC=C2)CO | C7H6N2OS
